US06730695B2
A) Ethyl 2-(2-methoxyphenyl)-2-oxoacetate
A solution of 27 g of 1-bromo-2-methoxybenzene in 270 ml of ether is cooled to −70° C., under an argon atmosphere, 90 ml of a 1.6 M solution of n-butyllithium in pentane are added dropwise and the mixture is then stirred for 45 minutes. 78 ml of diethyl oxalate are added rapidly and the mixture is stirred while allowing the temperature to return to RT. After stirring for 1 hour at RT, saturated NH4Cl solution is added to the reaction mixture, the phases are separated by settling, the aqueous phase is extracted with ether, the combined organic phases are washed with water, with saturated NaCl solution and dried over Na2SO4, and the solvents are evaporated off under vacuum. The excess diethyl oxalate is removed by distillation under vacuum (b.p.=87° C. at 2000 Pa). The resulting product is chromatographed on silica gel eluting with a DCM/hexane mixture (50/50; v/v) and then with DCM. The product obtained is purified by distillation under vacuum. 13 g of the expected product are obtained; b.p.=110° C. at 3 Pa.

reactant | 1-bromo-2-methoxybenzene | 27 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | diethyl oxalate | 78 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 270 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | Ethyl 2-(2-methoxyphenyl)-2-oxoacetate | 13 g | COC1=C(C=CC=C1)C(C(=O)OCC)=O | C11H12O4
